US08071778B2
6-(1-hydroxyethyl)-4-(trifluoromethyl)pyridin-2-ol.
6-hydroxy-4-(trifluoromethyl)picolinaldehyde (2.00 g, 10.5 mmol) was dissolved in dry THF (20 mL) and cooled to −78° C. Methyl magnesium bromide (24 mmol) was added dropwise over 5 minutes. The mixture was allowed to mix for 15 minutes. The reaction was allowed to warm to room temperature and slowly quenched with saturated ammonium chloride (20 mL). The solution was then extracted with ethyl acetate (3×100 mL). The organic extracts were combined and washed with brine (1×) dried over sodium sulfate and concentrated to yield 1.50 g of desired product (70%). 1HNMR (CDCl3 400 MHz) δ6.70 (s, 1H), 6.28 (s, 1H), 4.80 (m, 1H), 3.46 (q, 1H), 1.55 (d, 3H). Mass Spec.: 208.14 (MH)+.

reactant | 6-hydroxy-4-(trifluoromethyl)picolinaldehyde | 10.5 mmol, 2.00 g | OC1=CC(=CC(=N1)C=O)C(F)(F)F | C7H4F3NO2
reactant | Methyl magnesium bromide | 24 mmol | C[Mg]Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-(1-hydroxyethyl)-4-(trifluoromethyl)pyridin-2-ol | 1.50 g, 70% | OC(C)C1=CC(=CC(=N1)O)C(F)(F)F | C8H8F3NO2
